US03932404
One operates as in Example 12, but the 1-cyano-1-ethoxycarbonyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene is replaced by 1-cyano-1-methoxycarbonyl-3-methyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene and the reaction is effected at -30°C. 4.1 parts of 1-cyano-1-methoxycarbonyl-3-methyl-4-amino--4-phenyl-2-aza-1,3-butadiene are obtained after a reaction time of 3 days. After recrystallisation from methanol the product melts at 145°C.

reactant | 1-cyano-1-ethoxycarbonyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene | C(#N)C(=NC=C(C1=CC=CC=C1)N1CCOCC1)C(=O)OCC | C17H19N3O3
reactant | 1-cyano-1-methoxycarbonyl-3-methyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene | C(#N)C(=NC(=C(C1=CC=CC=C1)N1CCOCC1)C)C(=O)OC | C17H19N3O3
product | 1-cyano-1-methoxycarbonyl-3-methyl-4-amino--4-phenyl-2-aza-1,3-butadiene | C(#N)C(=NC(=C(C1=CC=CC=C1)N)C)C(=O)OC | C13H13N3O2
